US04528292
3-(1-Cyano-4-piperidinyl)-1,2-benzisothiazole
To a stirred mixture of CNBr (5.9 g, 0.056 mole), K2CO3 (8.6 g) and CHCl3 (80 ml) was added dropwise 3-(1-methyl-4-piperidinyl)-1,2-benzisothiazole (11.0 g, 0.051 mole) in CHCl3 (30 ml). The mixture was stirred and refluxed for 4 hours and thereafter cooled and filtered. The filtrate was concentrated in vacuo to a solid. The solid was triturated with hexane and collected to yield 13.5 g of the desired compound. Recrystallization from MeOH--H2O (twice) yielded 4.5 g (36%) of the benzisothiazole, m.p. 118°-120°.

reactant | CNBr | 0.056 mole, 5.9 g | N#CBr | CBrN
reactant | K2CO3 | 8.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-(1-methyl-4-piperidinyl)-1,2-benzisothiazole | 0.051 mole, 11.0 g | CN1CCC(CC1)C1=NSC2=C1C=CC=C2 | C13H16N2S
solvent | CHCl3 | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(1-Cyano-4-piperidinyl)-1,2-benzisothiazole | 13.5 g | C(#N)N1CCC(CC1)C1=NSC2=C1C=CC=C2 | C13H13N3S
